US03951875
A solution of 235 g of diisobutyl aluminium hydride in 300 ml of anhydrous benzene is added dropwise to a mixture of 120 g of 2-carbethoxymethyl-2-hydroxy-decalin and 120 ml of anhydrous benzene under nitrogen. During the addition the temperature of the reaction mass is held between 15° and 20°C. This temperature is maintained for a further two hours after the end of the addition. The mass is then cooled to 0°C and hydrolysed with 1500 ml of a 10% aqueous solution of sulphuric acid. The temperature is allowed to return to ambient, the organic layer decanted and the mother liquor extracted twice with 250 ml of benzene. The benzene extracts are then combined and washed to neutrality. After distillation of the solvent on a water bath under reduced pressure the crude product is rectified giving 72 g of 2-hydroxy-ethyl-2-hydroxy-decalin (72% yield) having b.p.1 = 147°.

reactant | diisobutyl aluminium hydride | 235 g | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2-carbethoxymethyl-2-hydroxy-decalin | 120 g | C(=O)(OCC)CC1(CC2CCCCC2CC1)O | C14H24O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 2-hydroxy-ethyl-2-hydroxy-decalin | 72 g, 72% yield | OCCC1C(CCC2CCCCC12)O | C12H22O2
